US09034921B2
(2S,3R,4R,5S,6R)-2-(7-Cyclopropyl-6-(4-ethoxybenzyl)-2,3-dihydrobenzofuran-4-yl)-6-(hydroxymethyl)-tetrahydro-2H-pyran-3,4,5-triol
To a solution of 7-chloro-6-(4-ethoxybenzyl)-3-methoxy-4-((3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)-tetrahydro-2H-pyran-2-yl)-2,3-dihydrobenzofuran (102 mg, 0.125 mmol) in THF/MeOH (4 mL/2 mL) was added 10% Pd/C (10 mg) at rt. The reaction mixture was stirred at r.t. for 15 hours under hydrogen and filtered off. The filtrate was concentrated in vacuo and the residue was purified using reverse phase preparative HPLC to provide the title compound (17 mg, 29%) as a white solid.

reactant | 7-chloro-6-(4-ethoxybenzyl)-3-methoxy-4-((3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)-tetrahydro-2H-pyran-2-yl)-2,3-dihydrobenzofuran | 0.125 mmol, 102 mg | ClC1=C(C=C(C=2C(COC21)OC)C2O[C@@H]([C@H]([C@@H]([C@H]2OCC2=CC=CC=C2)OCC2=CC=CC=C2)OCC2=CC=CC=C2)COCC2=CC=CC=C2)CC2=CC=C(C=C2)OCC | C52H53ClO8
reactant | THF MeOH | 4 mL | C1CCOC1.CO
catalyst | Pd/C | 10 mg | [Pd] | Pd
product | (2S,3R,4R,5S,6R)-2-(7-Cyclopropyl-6-(4-ethoxybenzyl)-2,3-dihydrobenzofuran-4-yl)-6-(hydroxymethyl)-tetrahydro-2H-pyran-3,4,5-triol | 17 mg, 29% | C1(CC1)C1=C(C=C(C=2CCOC21)[C@@H]2O[C@@H]([C@H]([C@@H]([C@H]2O)O)O)CO)CC2=CC=C(C=C2)OCC | C26H32O7
